US07553840B2
A microwave vial (20 ml) was charged with 2-formylphenylboronic acid (290 mg, 2.0 mmol), 3-bromo-thiophene (326 mg, 2.0 mmol), and 8 ml of acetonitrile. To this mixture was added 4 ml of aqueous sodium carbonate (1M), followed by 50 mg of dichlorobis-(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, the reaction mixture was extracted with ethylacetate. The organic layer was evaporated to provide a crude material, which was purified by ISCO to give 211 mg of 2-thiophen-3-yl-benzaldehyde.

reactant | 2-formylphenylboronic acid | 2.0 mmol, 290 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | 3-bromo-thiophene | 2.0 mmol, 326 mg | BrC1=CSC=C1 | C4H3BrS
reactant | sodium carbonate | 1M, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis-(triphenylphosphine)-palladium(II) | 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 2-thiophen-3-yl-benzaldehyde | 211 mg | S1C=C(C=C1)C1=C(C=O)C=CC=C1 | C11H8OS
